US07399759B2
6-(2-Furyl)-2-pyridinecarbonitrile
6-Chloro-2-pyridinecarbonitrile (0.90 g, 6.5 mmol) and 2-furanboric acid (1.1 g, 9.8 mmol) were dissolved in toluene (80 ml)-ethanol (205 ml), and potassium carbonate (2.2 g, 15.9 mmol) and water (20 ml) were added thereto. The mixture was deairated under reduced pressure for 10 minutes. Tetrakis(triphenylphosphine)palladium (0) (0.36 g, 0.31 mmol) was added to the reaction mixture under argon atmosphere, and the mixture was refluxed for 13 hrs. The reaction mixture was combined with ethyl acetate and water. The organic layer was separated, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (5:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (0.97 g, 87%).

reactant | 6-Chloro-2-pyridinecarbonitrile | 6.5 mmol, 0.90 g | ClC1=CC=CC(=N1)C#N | C6H3ClN2
reactant | potassium carbonate | 15.9 mmol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 205 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.31 mmol, 0.36 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2-Furyl)-2-pyridinecarbonitrile | 0.97 g, 87% | O1C(=CC=C1)C1=CC=CC(=N1)C#N | C10H6N2O
